US08871187B2
70 mg (0.345 mmol) of 3-pentyl-3-phenylazetidine and 100 mg (0.315 mmol) of (R)-2-(3-1H-imidazol-4-ylpropionylamino)-3-(4-methoxyphenyl)propanoic acid are solubilized in 1 ml of DMF. 67 mg (0.345 mmol) of EDC and 47 mg (0.345 mmol) of HOBT are added to this solution. The whole is left to stir for 4 hours and is then treated with 1N sodium hydroxide and extracted with dichloromethane. The organic phase is dried over sodium sulphate, filtered and evaporated under pressure. The crude product obtained is purified by silica gel chromatography (eluent 9/1 dichloromethane/methanol). 85 mg of N—[(R)-1-(4-methoxybenzyl)-2-oxo-2-(3-pentyl-3-phenylazetidin-1-yl)ethyl]-3-(1H-imidazol-4-yl)propionamide are obtained in the form of a white powder with a yield of 49%.

reactant | 3-pentyl-3-phenylazetidine | 0.345 mmol, 70 mg | C(CCCC)C1(CNC1)C1=CC=CC=C1 | C14H21N
reactant | (R)-2-(3-1H-imidazol-4-ylpropionylamino)-3-(4-methoxyphenyl)propanoic acid | 0.315 mmol, 100 mg | N1C=NC(=C1)CCC(=O)N[C@@H](C(=O)O)CC1=CC=C(C=C1)OC | C16H19N3O4
reactant | EDC | 0.345 mmol, 67 mg
reactant | HOBT | 0.345 mmol, 47 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N—[(R)-1-(4-methoxybenzyl)-2-oxo-2-(3-pentyl-3-phenylazetidin-1-yl)ethyl]-3-(1H-imidazol-4-yl)propionamide | 85 mg, yield of 49% | COC1=CC=C(C[C@H](C(N2CC(C2)(C2=CC=CC=C2)CCCCC)=O)NC(CCC=2N=CNC2)=O)C=C1 | C30H38N4O3
